US07449475B2
N-Cyclopropyl-2-hydroxy-4-methoxybenzamide
A suspension of methyl 2-hydroxy-4-methoxybenzoate (5.1 g, 28.0 mmol) in cyclopropyl amine 24 mL) was stirred at room temperature for 5 days. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (0-60% ethyl acetate in petroleum ether) to give the subtitled compound (1.8 g).

reactant | methyl 2-hydroxy-4-methoxybenzoate | 28.0 mmol, 5.1 g | OC1=C(C(=O)OC)C=CC(=C1)OC | C9H10O4
reactant | cyclopropyl amine | 24 mL | C1(CC1)N | C3H7N
product | N-Cyclopropyl-2-hydroxy-4-methoxybenzamide | 1.8 g | C1(CC1)NC(C1=C(C=C(C=C1)OC)O)=O | C11H13NO3
